US07906645B2
1-{[(3R)-1-Cyclopropylpiperidin-3-yl]methyl}piperazine
Benzyl 4-{[(3R)-1-cyclopropylpiperidin-3-yl]methyl}piperazine-1-carboxylate (45 mg) was dissolved in ethanol (6 ml). 10% Palladium on carbon (Degussa) (72 mg) was added and the mixture stirred for 60 hours at room temperature under an atmosphere of hydrogen. A further amount of catalyst (60 mg) was added and the mixture stirred for 40 hours at room temperature under an atmosphere of hydrogen. The reaction mixture was filtered through a pad of Celite, washed with ethanol and the filtrate concentrated in vacuo to give the title compound as a white solid (27.5 mg).

reactant | Benzyl 4-{[(3R)-1-cyclopropylpiperidin-3-yl]methyl}piperazine-1-carboxylate | 45 mg | C1(CC1)N1C[C@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H31N3O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 72 mg | [Pd] | Pd
product | 1-{[(3R)-1-Cyclopropylpiperidin-3-yl]methyl}piperazine | 27.5 mg | C1(CC1)N1C[C@H](CCC1)CN1CCNCC1 | C13H25N3
